US05889050
(R,R)-N,N'-di(2-methylpropionyl)-3,3'-dithiobis(2-aminopropionic acid)
N-Isobutyryl-L-cysteine (9.5 g, 50 mmol) was dissolved in 50 mL of water. Hydrogen peroxide (30%, 3.1 mL, 30 mmol) was added and the reaction mixture was stirred at room temperature for 6 hours. After evaporation of the solvent under reduced pressure, a white crystallised oil (9.8 g) was obtained. Recrystallisation from ethyl acetate furnished the title compound as a white solid which was dried in vacuo.

reactant | N-Isobutyryl-L-cysteine | 50 mmol, 9.5 g | C(C(C)C)(=O)N[C@@H](CS)C(=O)O | C7H13NO3S
reactant | Hydrogen peroxide | 30 mmol, 3.1 mL | OO | H2O2
solvent | water | 50 mL | O | H2O
product | (R,R)-N,N'-di(2-methylpropionyl)-3,3'-dithiobis(2-aminopropionic acid) | CC(C(=O)N[C@H](C(=O)O)CSSC[C@@H](C(=O)O)NC(C(C)C)=O)C | C14H24N2O6S2
